US07645753B2
3-Bromo-5-[1,3]dioxolan-2-yl-phenol
To a solution of 2-(3,5-dibromo-phenyl)-[1,3]dioxolane (20.25 g, 65.75 mmol, 1.0 equiv) in anhydrous THF (200 mL) was added n-BuLi (45.2 mL, 72.33 mmol, 1.1 equiv, 1.6 M solution in hexane) at −78° C. under Ar. After stirring the reaction mixture for 30 min, trimethyl borate (7.33 mL, 6.83 g, 65.75 mmol, 1.0 equiv) was added rapidly and the reaction allowed to come to 0° C. over a time period of 4 h. A solution of conc. acetic acid (5.64 mL, 5.92 g, 98.63 mmol, 1.5 equiv) was slowly added followed by addition of a solution of 35% hydrogen peroxide in water (6.3 mL, 7.03 g, 72.33 mmol, 1.1 equiv) and the reaction mixture kept at 0° C. for 30 min. After stirring at rt for an additional 4 h, the reaction was extracted with ethyl actetate (3×200 mL), the combined organic phases washed with water, dried over MgSO4 and concentrated by evaporation under reduced pressure. The title compound was obtained in quantitative yield (16.1 g). MS (EI): 245.0 [M]+.

reactant | 2-(3,5-dibromo-phenyl)-[1,3]dioxolane | 65.75 mmol, 20.25 g, 1.0 equiv | BrC=1C=C(C=C(C1)Br)C1OCCO1 | C9H8Br2O2
reactant | n-BuLi | 72.33 mmol, 1.6 M, 45.2 mL, 1.1 equiv | [Li]CCCC
reactant | trimethyl borate | 65.75 mmol, 7.33 mL, 6.83 g, 1.0 equiv | B(OC)(OC)OC | C3H9BO3
reactant | acetic acid | 98.63 mmol, 5.64 mL, 5.92 g, 1.5 equiv | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 72.33 mmol, 6.3 mL, 7.03 g, 1.1 equiv | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-Bromo-5-[1,3]dioxolan-2-yl-phenol | quantitative yield | BrC=1C=C(C=C(C1)C1OCCO1)O | C9H9BrO3
